US08802679B2
To a mixture of 4-nitrophenyl(3′-{[{[(tert-butoxycarbonyl)amino]acetyl}(methyl)amino]methyl}biphenyl-4-yl)carbamate (150 mg), DIPEA (36 mg), and dichloromethane (3 ml) was added 1-methylpiperazine (28 mg), followed by stirring at 50° C. for 5 hours. The reaction mixture was subjected to liquid separation with CHCl3-water, and the aqueous layer was extracted with CHCl3. The combined organic layer was dried over Na2SO4, and then the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (2% MeOH/CHCl3) to obtain tert-butyl (2-{methyl[(4′-{[(4-methylpiperazin-1-yl)carbonyl]amino}biphenyl-3-yl)methyl]amino}-2-oxoethyl)carbamate (132 mg) as a pale yellow oil.

reactant | 4-nitrophenyl(3′-{[{[(tert-butoxycarbonyl)amino]acetyl}(methyl)amino]methyl}biphenyl-4-yl)carbamate | 150 mg | [N+](=O)([O-])C1=CC=C(C=C1)N(C([O-])=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C)C(CNC(=O)OC(C)(C)C)=O
reactant | DIPEA | 36 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methylpiperazine | 28 mg | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | tert-butyl (2-{methyl[(4′-{[(4-methylpiperazin-1-yl)carbonyl]amino}biphenyl-3-yl)methyl]amino}-2-oxoethyl)carbamate | 132 mg | CN(C(CNC(OC(C)(C)C)=O)=O)CC=1C=C(C=CC1)C1=CC=C(C=C1)NC(=O)N1CCN(CC1)C | C27H37N5O4
